US04826837
4-Hydroxy-cinnoline-3-carboxylic acid, methyl ester (6 g), prepared accoring to J. Chem. Soc. 687 (1968), is reacted with 2-aminopyridine (16.6 g, stepwise added) in polyphosphoric acid (300 g:160 g of H3PO4 and 140 g of P2O5) under stirring at 150° C. for 10 hours. After cooling, dilution with ice water and neutralization with 35% NaOH, the precipitate is filtered and washed with water. Crystallization from dimethylformamide gives 4.9 g of 4-hydroxy-N-(2-pyridyl)-cinnoline-3-carboxamide, m.p. 341°-343° C.

reactant | 4-Hydroxy-cinnoline-3-carboxylic acid, methyl ester | 6 g | OC1=C(N=NC2=CC=CC=C12)C(=O)OC | C10H8N2O3
reactant | 2-aminopyridine | NC1=NC=CC=C1 | C5H6N2
product | 4-hydroxy-N-(2-pyridyl)-cinnoline-3-carboxamide | 4.9 g | OC1=C(N=NC2=CC=CC=C12)C(=O)NC1=NC=CC=C1 | C14H10N4O2
